### ISSUE TITLE
ring failed, ring expressions not equal

### ISSUE THREAD

**Issue by suhr** [leanprover-community/mathlib4#302]
On solving `i + (↑n - 1 - i) = ↑n - 1` in integers:

```
ring failed, ring expressions not equal: 
(1) * (i)^1 + (1) * (↑n - 1 - i)^1 + 0
  !=
(1) * (↑n - 1)^1 + 0
```

Mathlib commit: 8f609e0ed826dde127c8bc322cb6f91c5369d37a

**Comment by digama0** [comment]
Please provide a self contained example (MWE).

**Comment by suhr** [comment]
Here it is: https://github.com/suhr/ring-mwe

**Comment by EdAyers** [comment]
save a click: 

```
import Mathlib

def hello := "world"

example {n:Nat}: ∀i, i + (↑n-1-i) = ↑n-1 :=
by
  intro i
  ring
```

**Comment by digama0** [comment]
This is working as expected. Lean 3 ring also rejects this:
```lean
import tactic.ring

example {n:nat}: ∀i, i + (↑n-1-i) = ↑n-1 :=
begin
  intro i,
  ring
end
```
(It suggests you use `ring_nf` instead but that just means it failed. If you use `ring1` it will fail properly.)

In fact, the theorem isn't even true:
```lean
example (h : ∀ {n:Nat}, ∀i, i + (↑n-1-i) = ↑n-1) : False :=
by cases @h 0 1
```

**Comment by digama0** [comment]
Actually it seems like the MWE was a mistranslation and what was meant was
```lean
import Mathlib.Tactic.Ring

example {n:Nat} : ∀i:Int, i + (↑n-1-i) = ↑n-1 :=
by
  intro i
  ring
```
In this case, the issue is that `ring` does not handle subtraction at the moment. This is tracked in #335.
